US07217724B2
To a solution of (R)-2-iodo-1-[4-(phenylmethoxy)-3-[(methyl-sulfonyl)amino]phenyl]ethanol (938 mg, 2.1 mmol), imidazole (393 mg, 5.77 mmol) and 4-dimethylaminopyridine (22.5 mg, 0.184 mmol) in dimethylformamide (10 mL) is added triethylsilyl chloride (0.38 mL, 2.2 mmol) with stirring. One hour thereafter, the reaction is complete, and the reaction solution is diluted with EtOAc (150 mL) and heptane (15 mL). The organic phase is washed with water, a saturated aqueous copper sulfate solution and a saturated brine, and dried over magnesium sulfate. The filtrate is concentrated under reduced pressure to give a solid, which is dissolved in ethyl acetate. The mixture is diluted with heptane, and the precipitated crystals are collected by filtration. The collected solid is washed with heptane and dried in vacuo to give the desired (R)—N-[2-benzyloxy-5-(2-iodo-1-triethylsilyloxyethyl)phenyl]methanesulfonamide (926 mg, yield: 79%).

reactant | (R)-2-iodo-1-[4-(phenylmethoxy)-3-[(methyl-sulfonyl)amino]phenyl]ethanol | 2.1 mmol, 938 mg | IC[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C | C16H18INO4S
reactant | imidazole | 5.77 mmol, 393 mg | N1C=NC=C1 | C3H4N2
reactant | triethylsilyl chloride | 2.2 mmol, 0.38 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 0.184 mmol, 22.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | heptane | 15 mL | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)—N-[2-benzyloxy-5-(2-iodo-1-triethylsilyloxyethyl)phenyl]methanesulfonamide | 926 mg, yield: 79% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C22H32INO4SSi
